US06962934B2
Preparation of N2-[(2S)-3-(3,5-difluorophenyl)-2-({3-[(dipropylamino)carbonyl]-5-methylbenzoyl}amino)propyl]-N1-isobutyl-L-alaninamide hydrochloride
N2-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propyl]-N1-isobutyl-L-alaninamide hydrochloride (238 mg, 0.53 mmol) is stirred with 2 mL of TFA and 3 mL of dichloromethane for 1 h. The mixture is concentrated, neutralized with 3 mL of 1 N NaHCO3, and extracted into ethyl acetate containing 2% methanol. The organic phase is washed with brine, dried over Na2SO4, and concentrated to a yellow oil (400 mg) which includes TFA. The residue is dissolved in 2 mL of DMF. To 1 mL of the resulting solution is added a solution of 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid, (80 mg, 0.3 mmol), EDC (58 mg, 0.3 mmol) and HOBT (40 mg, 0.3 mmol) in 3 mL of DMF which has been stirred together under nitrogen for 1 h. The combined mixture is stirred for 5 days, and is then quenched with 20 mL of water and dissolved in 120 mL of ethyl acetate containing 5 mL of methanol. The organic phase is washed with water, 1 N NaHCO3, and brine, and dried over Na2SO4. It is concentrated and chromatographed over silica gel, eluting with 3% to 5% methanol in chloroform to afford the free base of the title compound as a sticky solid (65 mg, 0.12 mmol, 45%). To a portion of this material is added ether and ethereal HCl, affording the title compound as an off-white solid. MS (CI) m/z 559 (MH+). HRMS (ESI) calcd for C31H44F2N4O3+H1 559.3459, found 559.3455

reactant | N2-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propyl]-N1-isobutyl-L-alaninamide hydrochloride | 0.53 mmol, 238 mg | Cl.C(C)(C)(C)OC(=O)N[C@H](CN[C@@H](C)C(=O)NCC(C)C)CC1=CC(=CC(=C1)F)F
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-[(dipropylamino)carbonyl]-5-methylbenzoic acid | 0.3 mmol, 80 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C)CCC | C15H21NO3
reactant | EDC | 0.3 mmol, 58 mg
reactant | HOBT | 0.3 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N2-[(2S)-3-(3,5-difluorophenyl)-2-({3-[(dipropylamino)carbonyl]-5-methylbenzoyl}amino)propyl]-N1-isobutyl-L-alaninamide hydrochloride | 0.12 mmol, 65 mg, 45% | Cl.FC=1C=C(C=C(C1)F)C[C@@H](CN[C@@H](C)C(=O)NCC(C)C)NC(C1=CC(=CC(=C1)C)C(=O)N(CCC)CCC)=O | InChI=1S/C31H44F2N4O3.ClH/c1-7-9-37(10-8-2)31(40)25-12-21(5)11-24(16-25)30(39)36-28(15-23-13-26(32)17-27(33)14-23)19-34-22(6)29(38)35-18-20(3)4;/h11-14,16-17,20,22,28,34H,7-10,15,18-19H2,1-6H3,(H,35,38)(H,36,39);1H/t22-,28-;/m0./s1
